### PR TITLE
Descent for pushouts

### PR DESCRIPTION
**Pull request by fredrik-bakke**
Shows that displayed cartesian span diagrams classify families over pushouts.

### CODE REVIEW

**Comment by fredrik-bakke** [comment]
Marking this as ready for review a bit early. I should probably have a second look at it later.

File: src/Synthetic/Categories/Cocomma.lagda.tree [hunk 1]
```diff
@@ -269,30 +274,30 @@ This is sometimes also called the \em{blunt join}.}
...
     = ext! ((λ _ → hom0) , (λ _ → hom1)
            , λ _ → ( ~refl
                    , (Square-flatten-hor refl) , Square-flatten-hor refl)) where
-    open Right-cocone cc
+    open directed-cocone cc
     open Homᵈ (filler _)
 
 _▻ : ∀ {𝓤} → Type 𝓤 → Type (𝓘 ⊔ 𝓤)
-A ▻ = A ◇ 𝟙
+A ▻ = _◇_ {𝓥 = lzero} A 𝟙
```
Comment (samtoth) [inline src/Synthetic/Categories/Cocomma.lagda.tree]: Was this extra annotation required because of lossy unification? How much does lossy unification improve the type checking time?

File: src/Core/DescentPushouts.lagda.tree [hunk 2]
```diff
@@ -0,0 +1,194 @@
...
+open import Core.Arrows
+open import Core.ArrowEquiv
+open import Core.CartesianSpans
+}
+
+\subtree[fre-0001]{
+\title{Displayed cartesian span diagrams classify cocones into the universe}
+\taxon{Lemma}
+\author{fredrikbakke}
+
```
Comment (samtoth) [inline src/Core/DescentPushouts.lagda.tree:22]: Statement

File: src/Core/DescentPushouts.lagda.tree [hunk 3]
```diff
@@ -0,0 +1,194 @@
...
+  descent-up-pushout
+    : ∀ {𝓜} → is-equiv (span←family-up-pushout c {𝓜})
+  descent-up-pushout
+    = is-equiv-∘ span←Type-cocone-is-equiv up-c
+
+  descent-up-pushout≃
+    : ∀ {𝓜} → (X → Type 𝓜) ≃ span-diagramᵈ S 𝓜 𝓜 𝓜
+  descent-up-pushout≃
+    = mk≃ (span←family-up-pushout c) (descent-up-pushout)
+
```
Comment (samtoth) [inline src/Core/DescentPushouts.lagda.tree:159]:
```suggestion
}

\agda{
```

File: src/Core/DescentPushouts.lagda.tree [hunk 4]
```diff
@@ -0,0 +1,194 @@
...
+\subtree[fre-0002]{
+\title{Descent for pushouts}
+\taxon{Theorem}
+\author{fredrikbakke}
+
+\p{
+Families over pushouts are equivalent to displayed cartesian span diagrams over their
+pushout spans.
+}
+
```
Comment (samtoth) [inline src/Core/DescentPushouts.lagda.tree:134]: Written proof

File: src/Core/DescentPushouts.lagda.tree (hunk 2 above)
Comment (samtoth) [reply src/Core/DescentPushouts.lagda.tree:22]: And a sketch proof

**Review by samtoth — COMMENTED** [review]
Sorry that the review to this was so delayed.

I have reviewed the non-directed descent and it looks good.

There is now a minor clash with the refactoring of DUA that I have been doing - although it shouldn't affect the code here all that much. 

Nonetheless, would you be happy to split out the directed descent into a separate PR, so that we can merge this one independently of the spaces refactor?

**Comment by fredrik-bakke** [comment]
@samtoth comments are addressed now 👍

File: src/Core/CartesianDependentSpans.lagda.tree [hunk 5]
```diff
@@ -0,0 +1,92 @@
...
+}
+
+\subtree[fre-0000]{
+\title{Cartesian dependent spans}
+\taxon{Definition}
+\author{fredrikbakke}
+
+\p{
+Given a span #{S}, #{A \xleftarrow{f} X \xrightarrow{g} B}, a
+\em{cartesian dependent span} over #{S} between a family #{L : A \to \Type} and a
```
Comment (samtoth) [inline src/Core/CartesianDependentSpans.lagda.tree]: What do you think about the terminology 'displayed' instead of 'dependent'. Its used for displayed categories obviously, and more generally I have seen the terminology used for 'displayed' model of some algebraic theory.

File: src/Core/DescentPushouts.lagda.tree [hunk 6]
```diff
@@ -0,0 +1,222 @@
...
+        (P .cartesian-span-diagramᵈ.Left)
+        (P .cartesian-span-diagramᵈ.Right)
+        (ua ∘ cartesian-span-diagramᵈ.Left≃Right P)
+
+  opaque
+    Type-cocone←span-is-retraction
+      : Type-cocone←span ∘ cartesian-span-diagramᵈ←Type-cocone ~ id
+    Type-cocone←span-is-retraction (mk-cocone L R filler)
+      = ap (mk-cocone L R)
+           (funext→ λ _ → ap ua (≃-path→ refl) ∙ ua-coe≃)
```
Comment (samtoth) [inline src/Core/DescentPushouts.lagda.tree]:
```suggestion
      = ap 
          (mk-cocone L R)
          (funext→ λ _ → ap ua (≃-path→ refl) ∙ ua-coe≃)
```

Or on one line if it fits within limit

File: src/Core/DescentPushouts.lagda.tree [hunk 7]
```diff
@@ -0,0 +1,222 @@
...
+                ( λ L' e-left'
+                  → (e-right' : C s ≃ R (Span.right S s))
+                  → Id
+                    ( Σ[ C' ∶ Type 𝓛 ] ((C' ≃ L') × (C' ≃ R (Span.right S s))))
+                    ( L' , id≃ , coe≃ (ua (e-left' e⁻¹ ∙e e-right')))
+                    ( C s , e-left' , e-right'))
+                ( λ _ → Σ-path→ (refl , ×-path→ (refl , coe≃-ua ∙ ≃-path→ refl)))
+                (L (Span.left S s))
+                (e-left s)
+                (e-right s)))
```
Comment (samtoth) [inline src/Core/DescentPushouts.lagda.tree]: Unimath style here

```suggestion
      = ap
        (λ S
         → mk-cartesian-span-diagramᵈ L R
              (S .cartesian-spanᵈ.Centre)
              (S .cartesian-spanᵈ.Left≃)
              (S .cartesian-spanᵈ.Right≃))
        (unap-equiv
          (Π-swap-cartesian-spanᵈ L R ._≃_.fwd-is-equiv)
          (funext→ λ s
            → equiv-J
                (λ L' e-left'
                 → (e-right' : C s ≃ R (Span.right S s))
                 → Id
                    (Σ[ C' ∶ Type 𝓛 ] ((C' ≃ L') × (C' ≃ R (Span.right S s))))
                    (L' , id≃ , coe≃ (ua (e-left' e⁻¹ ∙e e-right')))
                    (C s , e-left' , e-right'))
                (λ _ → Σ-path→ (refl , ×-path→ (refl , coe≃-ua ∙ ≃-path→ refl)))
                (L (Span.left S s))
                (e-left s)
                (e-right s)))
```

File: src/Core/DescentPushouts.lagda.tree [hunk 8]
```diff
@@ -0,0 +1,222 @@
...
+By the universal property of pushouts, a family over a pushout is the same as a
+cocone with target #{\UU}, and by the [preceding lemma](fre-0001) cocones into the
+universe are cartesian dependent span diagrams over the pushout span.
+}
+}
+
+\agda{
+module _ {𝓤 𝓥 𝓦 𝓛} {S : Span 𝓤 𝓥 𝓦} {X : Type 𝓛} (c : Cocone S X) where
+
+  span←family-up-pushout
```
Comment (samtoth) [inline src/Core/DescentPushouts.lagda.tree]: I'm not clear why 'up-pushout' is part of this name?

Comment (samtoth) [reply src/Core/DescentPushouts.lagda.tree]: Maybe `span^d \from family-cocone` or something would be better? Since it doesn't rely on the cocone having the up of a pushout

**Review by samtoth — APPROVED** [review]

File: src/Core/CartesianDependentSpans.lagda.tree (hunk 5 above)
Comment (fredrik-bakke) [reply src/Core/CartesianDependentSpans.lagda.tree]: I'm not against it. This PR originally used "displayed" but I found my phrasings to be marginally more natural with "dependent".

File: src/Core/DescentPushouts.lagda.tree (hunk 7 above)
Comment (fredrik-bakke) [reply src/Core/DescentPushouts.lagda.tree]: The agda-unimath style makes this so much neater 😭

File: src/Core/CartesianDependentSpans.lagda.tree (hunk 5 above)
Comment (samtoth) [reply src/Core/CartesianDependentSpans.lagda.tree]: I think I prefer displayed, if you have no objection
